US08383636B2
Hydrazine hydrate (0.56 ml, 11.6 mmol) was added dropwise to a suspension of (2S,3R)-2-(((4-amino-5-(benzyloxymethyl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methyl)(methyl)amino)-4-(methylthio)butane-1,3-diol (50 mg, 116 μmol), palladium black (50 mg, 47.0 μmol) and ethanol (2 ml). Upon complete addition of the hydrazine the palladium went from a fine suspension to a granular form. The reaction was warmed to 60 C at which point TLC analysis indicated the reaction was complete therefore the reaction was cooled to ambient temperature, the palladium black removed by filtration and the filtrate concentrated in vacuo, and the crude residue co-distilled with ethanol and toluene (50 ml, 2:1 v/v). The resulting residue was purified by flash chromatography on silica gel eluting with 20% 7N NH3 in MeOH/DCM to afford (2S,3R)-2-(((4-amino-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methyl)(methyl)amino)-4-(methylthio)butane-1,3-diol (30 mg, 96 μmol, 83% yield) as a colourless syrup. 1H NMR (CD3OD) δ 8.16 (s, 1H), 7.43 (s, 1H), 4.11 (d, J=13.4 Hz, 1H), 3.86 (m, 3H), 3.73 (dd, J=11.5, 5.0 Hz, 1H), 2.88 (m, 1H), 2.77 (dd, J=13.7, 3.9 Hz, 1H), 2.54 (dd, J=13.6, 7.0 Hz, 1H), 2.43 (s, 3H), 2.07 (s, 3H). 13C NMR (CD3OD) 152.4, 151.0, 147.6, 129.8, 116.1, 115.4, 70.8, 67.2, 60.1, 50.3, 40.2, 38.8, 16.7.

reactant | Hydrazine hydrate | 11.6 mmol, 0.56 ml | O.NN
reactant | (2S,3R)-2-(((4-amino-5-(benzyloxymethyl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methyl)(methyl)amino)-4-(methylthio)butane-1,3-diol | 116 μmol, 50 mg | NC=1C2=C(N=CN1)C(=CN2COCC2=CC=CC=C2)CN([C@@H](CO)[C@H](CSC)O)C | C21H29N5O3S
reactant | hydrazine | NN | H4N2
catalyst | palladium black | 47.0 μmol, 50 mg | [Pd] | Pd
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (2S,3R)-2-(((4-amino-5H-pyrrolo[3,2-d]pyrimidin-7-yl)methyl)(methyl)amino)-4-(methylthio)butane-1,3-diol | 96 μmol, 30 mg, 83% yield | NC=1C2=C(N=CN1)C(=CN2)CN([C@@H](CO)[C@H](CSC)O)C | C13H21N5O2S
